M1 N_M1_D V- N_M5_D GND nmos
M2 N_M2_D V+ N_M5_D GND nmos
M3 N_M1_D V_BP VDD VDD pmos
M4 N_M2_D V_BP VDD VDD pmos
M5 N_M5_D V_BN GND GND nmos
M10 VO+ PMOS_CASCODE_BIAS N_M1_D VDD pmos
M11 VO- PMOS_CASCODE_BIAS N_M2_D VDD pmos
M8 VO+ NMOS_CASCODE_BIAS N_M6_D GND nmos
M9 VO- NMOS_CASCODE_BIAS N_M7_D GND nmos
M6 N_M6_D V_CMFB GND GND nmos
M7 N_M7_D V_CMFB GND GND nmos
MBP3 N_MBP3_D V_BP VDD VDD pmos
MBP3C V_CMFB PMOS_CASCODE_BIAS N_MBP3_D VDD pmos
MBN1C V_CMFB NMOS_CASCODE_BIAS N_MBN1_D GND nmos
MBN1 N_MBN1_D V_CMFB GND GND nmos
MBP2 N_MBP2_D V_BP VDD VDD pmos
MBP2C NMOS_CASCODE_BIAS PMOS_CASCODE_BIAS N_MBP2_D VDD pmos
MBN0C NMOS_CASCODE_BIAS NMOS_CASCODE_BIAS N_MBN0_D GND nmos
MBN0 N_MBN0_D V_BN GND GND nmos
MBP1 N_MBP1_D V_BP VDD VDD pmos
MBP1C V_BP PMOS_CASCODE_BIAS N_MBP1_D VDD pmos
MBP0 N_MBP0_D V_BP VDD VDD pmos
MBP0C PMOS_CASCODE_BIAS PMOS_CASCODE_BIAS N_MBP0_D VDD pmos
I1 V_BP GND
I2 PMOS_CASCODE_BIAS GND
C3 N_C3_L N_C3_R
C4 VO- V_CMFB
C2 VO+ V_CMFB
C1 N_C1_L N_C1_R
S1 (VCM N_C3_L) switch_ideal
S2 (VO- N_C3_L) switch_ideal
S3 (V_BN N_C3_R) switch_ideal
S4 (V_CMFB N_C3_R) switch_ideal
S5 (VO+ N_C1_L) switch_ideal
S6 (VCM N_C1_L) switch_ideal
S7 (V_CMFB N_C1_R) switch_ideal
S8 (V_BN N_C1_R) switch_ideal
